US07645764B2
Propane-2-one oxime (62 mg, 0.844 mmol) was dissolved in 2 mL THF and cooled to 0° C. under nitrogen. n-Butyl lithium (0.68 mL of 2.5 M solution in hexanes, 1.688 mmol) was added slowly, so that the reaction temperature remained below 5° C. After stirring for 30 minutes, 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester (200 mg, 0.56 mmol) was added, and the reaction mixture was stirred at 0° C. for one hour. Concentrated sulfuric acid (0.43 mL) was added dropwise, and the temperature was allowed to warm to room temperature over one hour. The reaction mixture was made pH neutral by addition of 1 M aqueous NaOH, and then partitioned between water and methylene chloride. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by preparative scale TLC plate, eluting with 25% EtOAc in hexanes then again with 0.25% MeOH in CH2Cl2, to give 8 mg of 8-methyl-6-[2-methyl-5-(3-methyl-isoxazol-5-yl)-phenyl]-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one; MS (M+H)=379.

reactant | Propane-2-one oxime | 0.844 mmol, 62 mg | CC(C)=NO | C3H7NO
reactant | n-Butyl lithium | 1.688 mmol, 2.5 M, 0.68 mL | C(CCC)[Li]
reactant | 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester | 0.56 mmol, 200 mg | COC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)=O | C18H17N3O3S
reactant | sulfuric acid | 0.43 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 8-methyl-6-[2-methyl-5-(3-methyl-isoxazol-5-yl)-phenyl]-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 8 mg | CN1C(C(=CC2=C1N=C(N=C2)SC)C2=C(C=CC(=C2)C2=CC(=NO2)C)C)=O | C20H18N4O2S
